US04985419
A mixture of 10-{(2RS)-1-[(3RS)-3-methyl-1-piperidyl]-2-propyl}-2-phenothiazinecarbothioamide acid fumarate (1 g) and propylamine (2.5 cc) in absolute ethanol (20 cc) is saturated with hydrogen sulphide and heated for 16 hours to a temperature in the region of 100° C. After cooling, the mixture is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residual orange oil (1.5 g) is purified by chromatography on a column (height: 25 cm; diameter: 2 cm) of silica gel (0.04-0.063 mm) with a slight excess pressure of nitrogen (40 kPa), eluting with a mixture (80:20 by volume) (250 cc) of ethyl acetate and cyclohexane and collecting 40-cc fractions. The combined fractions 3 and 4 are concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residual yellow oil (0.9 g) is dissolved in ethanol (3 cc) at 60° C., and this hot solution is poured, with stirring, into a solution of fumaric acid (0.23 g) in ethanol (3.5 cc) under reflux. After cooling, stirring is continued for 2 hours at a temperature in the region of 5° C. The solid formed is drained, washed with ethanol (2×1 cc) and dried under reduced pressure (5 mm Hg; 0.68 kPa) at 40° C. 10-{(2RS}-1-[(3RS)-3-Methyl-1-piperidyl]-2-propyl}-N-propyl-2-phenothiazinecarbothioamide neutral fumarate (0.53 g) is thereby obtained in the form of a yellow solid, m.p. 126° C.

reactant | 10-{(2RS)-1-[(3RS)-3-methyl-1-piperidyl]-2-propyl}-2-phenothiazinecarbothioamide | 1 g | CC1CN(CCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(N)=S | C22H27N3S2
reactant | propylamine | 2.5 cc | C(CC)N | C3H9N
reactant | hydrogen sulphide | S | H2S
solvent | ethanol | 20 cc | C(C)O | C2H6O
product | 10-{(2RS}-1-[(3RS)-3-Methyl-1-piperidyl]-2-propyl}-N-propyl-2-phenothiazinecarbothioamide | 0.53 g | CC1CN(CCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(NCCC)=S | C25H33N3S2
